US05736534
[(4-(3,4-Dihydro-2H-quinolin-1-yl)-6-methoxy-quinazolin-7-yloxyl-acetic acid ethyl ester
Utilizing a procedure analogous to that described in Example 1, this product was prepared in 2% yield from 1,2,3,4-tetrahydroquinoline and (4-chloro-6-methoxy-quinazolin-7-yloxy)-acetic acid ethyl ester. (film; LC-MS: 393 (MH+)).

reactant | 1,2,3,4-tetrahydroquinoline | N1CCCC2=CC=CC=C12 | C9H11N
reactant | (4-chloro-6-methoxy-quinazolin-7-yloxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=C2C(=NC=NC2=C1)Cl)OC)=O | C13H13ClN2O4
product | 4-(3,4-Dihydro-2H-quinolin-1-yl)-6-methoxy-quinazolin-7-yloxyl-acetic acid ethyl ester | 2% yield | C(C)OC(COC1=C(C=C2C(=NC=NC2=C1)N1CCCC2=CC=CC=C12)OC)=O | C22H23N3O4
